US08604689B2
4′-bromo-N,N-di-p-tolylbiphenyl-4-amine (Compound 4)
A mixture of tris(dibenzylideneacetone)dipalladium (353 mg, 0.385 mmol), and tri-tert-butyl phosphine (3.11 g of a 10% solution in hexanes) was degassed in toluene (anhydrous, 50 mL) for 20 minutes. Di-p-tolylamine (3.00 g, 15.2 mmol), and 4, 4′-dibromobiphenyl (4.80 g, 15.4 mmol) were added and the mixture was further degassed for 15 minutes. Sodium tert-butoxide (2.4 g, 25 mmol) was added, and mixture was further degassed for 10 minutes. The whole was heated overnight at 120° C. under argon. After cooling, the mixture was poured into dichloromethane (DCM), and solids were filtered off. Filtrate was washed with water and brine. The organic layer was collected and dried over sodium sulfate, then loaded onto silica gel. A flash column (gradient of 2-20% ethyl acetate in hexanes) gave 190 mg of material (3% yield); confirmed pure by HNMR.

reactant | tri-tert-butyl phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Di-p-tolylamine | 15.2 mmol, 3.00 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
reactant | 4, 4′-dibromobiphenyl | 15.4 mmol, 4.80 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | Sodium tert-butoxide | 25 mmol, 2.4 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.385 mmol, 353 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-bromo-N,N-di-p-tolylbiphenyl-4-amine | 190 mg, 3% yield | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C26H22BrN
